US07288548B2
To a solution of 13.1 mL (26.25 mmol) of oxalyl chloride (2M in DCM) in 13 mL of anhydrous DCM were added 3.72 mL (52.5 mmol) of DMSO at −78° C. After 5 minutes of stirring, 3 g (10.5 mmol) of 3-(RS)-hydroxymethyl-4-(SR)-phenylpyrrolidine-1-carboxylic acid tert-butyl ester, previously dissolved in 15 mL of anhydrous DCM, were added dropwise. After 30 minutes additional agitation at −78° C., 18.5 mL (105 mmol) of DIPEA were added dropwise. An additional 30 minutes of agitation at 0° C. and the reaction mixture was quenched with 10 mL of water. 100 mL of water were again added and the solution was extracted with DCM (2×100 mL). The combined organic layers were dried over sodium sulfate, filtered and evaporated in vacuo. The crude yellow oil was purified by flash chromatography on silica gel (ethyl acetate/hexanes 0:100 to 20:80) yielding 2.42 g (83.7%) of 3-(RS)-formyl-4-(SR)-phenylpyrrolidine-1-carboxylic acid tert-butyl ester as a pale yellow oil.

reactant | oxalyl chloride | 26.25 mmol, 2M, 13.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 52.5 mmol, 3.72 mL | CS(=O)C | C2H6OS
reactant | 3-(RS)-hydroxymethyl-4-(SR)-phenylpyrrolidine-1-carboxylic acid tert-butyl ester | 10.5 mmol, 3 g | C(C)(C)(C)OC(=O)N1CC(C(C1)C1=CC=CC=C1)CO | C16H23NO3
reactant | DIPEA | 105 mmol, 18.5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 13 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-(RS)-formyl-4-(SR)-phenylpyrrolidine-1-carboxylic acid tert-butyl ester | 2.42 g, 83.7% | C(C)(C)(C)OC(=O)N1CC(C(C1)C1=CC=CC=C1)C=O | C16H21NO3
